US05001135
(ii) (E)-5-[2-(Methylsulphonyl)ethenyl]-3-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)-1H-indole
A mixture of the product of stage (i) (1.0 g), methyl vinylsulphone (0.437 g), tri-o-tolylphosphine (0.21 g), palladium acetate (0.046 g) and triethylamine (0.96 ml) in anhydrous dimethylformamide (15 ml) was stirred under nitrogen at 100° for 10 h. Methylvinylsulphone (0.218 g) was added and after another 3 h palladium acetate (0.046 g) added. Stirring at 100° was continued for another 18 h before a further portion of palladium acetate (0.046 g) was added and stirring at 100° continued for another 6 h. The dark brown suspension was evaporated to dryness and the residue purified by chromatography (Merck 9385 silica) eluting with dichloromethane:methanol:triethylamine (100:8:1)) to give the title compound as a pale green-yellow powder (0.164 g). T.l.c. (SiO2 dichloromethane:ethanol:0.880 ammonia (100:8:1)) Rf 0.15

reactant | methyl vinylsulphone | 0.437 g | CS(=O)(=O)C=C | C3H6O2S
reactant | tri-o-tolylphosphine | 0.21 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.96 ml | C(C)N(CC)CC | C6H15N
reactant | Methylvinylsulphone | 0.218 g | CS(=O)(=O)C=C | C3H6O2S
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.046 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.046 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.046 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-5-[2-(Methylsulphonyl)ethenyl]-3-(1,2,3,6-tetrahydro-1-methyl-4-pyridinyl)-1H-indole | 0.164 g | CS(=O)(=O)/C=C/C=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C17H20N2O2S
